US09302991B2
<Step-2>: 2-propionamido-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)pyrimidine-4-carboxamide (Example-97, single enantiomer)
The title compound is prepared from 2-amino-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)pyrimidine-4-carboxamide (20 mg, 0.06 mmol, Step-1, single enantiomer) and propionyl chloride (8 mg, 0.09 mmol) according to the procedure similar to that described in Step-2 of Example 8.

reactant | 2-amino-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)pyrimidine-4-carboxamide | 0.06 mmol, 20 mg | NC1=NC=CC(=N1)C(=O)NC(C)C=1C=NC(=CC1)OCC(F)(F)F | C14H14F3N5O2
reactant | propionyl chloride | 0.09 mmol, 8 mg | C(CC)(=O)Cl | C3H5ClO
product | 2-propionamido-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)pyrimidine-4-carboxamide | C(CC)(=O)NC1=NC=CC(=N1)C(=O)NC(C)C=1C=NC(=CC1)OCC(F)(F)F | C17H18F3N5O3
